US08937092B2
A solution of 2-(3-cyanophenyl)propanoic acid (85 mg, 48.8 mmol) in 1,4-dioxane was cooled in an ice bath and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (139 mg, 73.2 mmol), N-hydroxybenzotriazole (98 mg, 73.2 mmol), triethylamine (172 μl, 170 mmol) and (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine (130 mg, 48.8 mmol), were added consecutively. The reaction mixture was stirred overnight at room temperature. Water was added to the reaction mixture and extracted with dichloromethane. The combined organic extracts were washed successively with saturated NaHCO3 solution, 0.5 N HCl and then water and dried over magnesium sulfate. Evaporation of the solvent followed by column chromatographic purification afforded the 2-(3-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide (110 mg, 53%).

reactant | 2-(3-cyanophenyl)propanoic acid | 48.8 mmol, 85 mg | C(#N)C=1C=C(C=CC1)C(C(=O)O)C | C10H9NO2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 73.2 mmol, 139 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | N-hydroxybenzotriazole | 73.2 mmol, 98 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | triethylamine | 170 mmol, 172 μl | C(C)N(CC)CC | C6H15N
reactant | (2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methanamine | 48.8 mmol, 130 mg | C1(=CC(=CC=C1)C1=NC(=CC=C1CN)C(F)(F)F)C | C14H13F3N2
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | Water | O | H2O
product | 2-(3-cyanophenyl)-N-((2-m-tolyl-6-(trifluoromethyl)pyridin-3-yl)methyl)propanamide | 110 mg, 53% | C(#N)C=1C=C(C=CC1)C(C(=O)NCC=1C(=NC(=CC1)C(F)(F)F)C=1C=C(C=CC1)C)C | C24H20F3N3O
